US06153652
2-(Aminomethyl)-benzeneacetate hydrochloride was stirred in dry methanol. Thionyl chloride (1.1 eq.) was added dropwise and the mixture was stirred at room temperature overnight to provide for (methyl 2-(aminomethyl)-benzeneacetate hydrochloride as a white solid.

reactant | 2-(Aminomethyl)-benzeneacetate hydrochloride | Cl.NCC1=C(C=CC=C1)CC(=O)O
reactant | Thionyl chloride | 1.1 eq. | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | CO | CH4O
product | methyl 2-(aminomethyl)-benzeneacetate hydrochloride | Cl.NCC1=C(C=CC=C1)CC(=O)OC | InChI=1S/C10H13NO2.ClH/c1-13-10(12)6-8-4-2-3-5-9(8)7-11;/h2-5H,6-7,11H2,1H3;1H
